US05017708
(1R*,5R*,6S*)-6-Phthalimido-3-trityl-3-azabicyclo[3,3,0]octane (II-6)
To a solution of 1 g of the compound (III-1), 710 mg of triphenylphosphine, and 3.98 g of phthalimide in 10 ml of THF is added 471 mg of diethyl azodicarboxylic acid, and the mixture is stirred at room temperature for 1.5 hours. The reaction mixture is concentrated under reduced pressure, and the residue is extracted with ether-toluene. The organic layer is concentrated, and the residue is chromatographed on a column of silica gel, eluting with n-hexane-ethyl acetate (5:1 v/v) to give 953 mg (Yield: 71%) of the objective compound (II-6).

reactant | triphenylphosphine | 710 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 3.98 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylic acid | 471 mg | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | (1R*,5R*,6S*)-6-Phthalimido-3-trityl-3-azabicyclo[3,3,0]octane | 953 mg, Yield: 71% | C1(C=2C(C(N1[C@@H]1[C@H]3CN(C[C@@H]3CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O | C34H30N2O2
